US04039543
A mixture of 1.23 g. of sodium methylate, 5.31 g. of 2',6'-bis(dimethylamino)-4'-[1-hydroxy-2-(methylsulfonyl)ethyl]N-methylacetanilide and 3.3 g. of β-anilinopropionitrile in 40 ml. of dimethylsulfoxide was stirred at room temperature under nitrogen for 5 hours. The mixture was poured into 200 ml. of ice water, the separated oil extracted with ethyl acetate, the ethyl acetate solution dried over sodium sulfate and evaporated. After purification of the residue over aluminum oxide with benzene and recrystallization from ethyl acetate/petroleum ether, there was obtained 4'-(3-anilino-2-cyanoallyl)-2',6'-bis(dimethylamino)-N-methylacetanilide having a melting point of 190°-200° C.

reactant | sodium methylate | C[O-].[Na+]
reactant | 2',6'-bis(dimethylamino)-4'-[1-hydroxy-2-(methylsulfonyl)ethyl]N-methylacetanilide | CN(C1=C(N(C(C)=O)C)C(=CC(=C1)C(CS(=O)(=O)C)O)N(C)C)C | C16H27N3O4S
reactant | β-anilinopropionitrile | N(C1=CC=CC=C1)CCC#N | C9H10N2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 4'-(3-anilino-2-cyanoallyl)-2',6'-bis(dimethylamino)-N-methylacetanilide | N(C1=CC=CC=C1)C=C(CC1=CC(=C(N(C(C)=O)C)C(=C1)N(C)C)N(C)C)C#N | C23H29N5O
